US08258138B2
1-Methyl-1H-imidazole-4-sulfonic acid benzyl-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-amide (Method G)
To a stirred solution of 4-[benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzoic acid (37 mg, 0.1 mmol) in dry dimethylformamide (1 ml) was added N-methylpiperazine (20 mg, 0.2 mmol), triethylamine (28 μl, 0.2 mmol) then 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (42 mg, 0.11 mmol) and the solution was stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and the residue purified using preparative HPLC to afford the title compound as a clear oil (30 mg, 66% HPLC retention time 4.5 min. Mass spectrum (ES+) m/z 454 (M+H).

reactant | 4-[benzyl-(1-methyl-1H-imidazole-4-sulfonyl)-amino]-benzoic acid | 0.1 mmol, 37 mg | C(C1=CC=CC=C1)N(C1=CC=C(C(=O)O)C=C1)S(=O)(=O)C=1N=CN(C1)C | C18H17N3O4S
reactant | N-methylpiperazine | 0.2 mmol, 20 mg | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.2 mmol, 28 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.11 mmol, 42 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-1H-imidazole-4-sulfonic acid benzyl-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-amide | C(C1=CC=CC=C1)N(S(=O)(=O)C=1N=CN(C1)C)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C23H27N5O3S
